US09388195B2
A) Production of methyl 3-[(trifluoroacetyl)amino]thiophene-2-carboxylate
To a solution of methyl 3-aminothiophene-2-carboxylate (50 g) in acetonitrile (650 mL) were added pyridine (31 mL) and trifluoroacetic anhydride (58.6 mL) while stirring under ice-cooling, and the mixture was stirred at 0° C. for 5 min. After stirring, the reaction system was allowed to warm to room temperature and, 10 min later, poured into ice water (6 L). After stirring for 20 min, the precipitate was collected by filtration and washed with water to give the title compound (80 g) as a pale-brown solid.

reactant | methyl 3-aminothiophene-2-carboxylate | 50 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | pyridine | 31 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 58.6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 650 mL | C(C)#N | C2H3N
product | methyl 3-[(trifluoroacetyl)amino]thiophene-2-carboxylate | 80 g | FC(C(=O)NC1=C(SC=C1)C(=O)OC)(F)F | C8H6F3NO3S
